US07632840B2
10% wt Palladium on charcoal (160 mg) in ethyl acetate (2 ml) was added to a solution of tert-butyl 3-[benzyl(methyl)amino]-3-[(methylamino)carbonyl]azetidine-1-carboxylate (580 mg, 1.74 mmol) in ethanol (45 ml). After the addition of a few drops of saturated hydrogen chloride in dichloromethane, the reaction mixture was stirred at room temperature under 3 bars of hydrogen for 3 hours. Filtration of the catalyst and concentration under reduced pressure gave tert-butyl 3-(methylamino)-3-[(methylamino)carbonyl]azetidine-1-carboxylate (395 mg, 93%) as a white solid, which was used without further purification in the next step. 1H NMR Spectrum: (CDCl3) 1.43 (s, 9H), 2.30 (s, 3H), 2.84 (s, 3H), 3.68 (d, 2H), 4.27 (brs, 2H), 7.05 (brs, 1H).

reactant | tert-butyl 3-[benzyl(methyl)amino]-3-[(methylamino)carbonyl]azetidine-1-carboxylate | 1.74 mmol, 580 mg | C(C1=CC=CC=C1)N(C1(CN(C1)C(=O)OC(C)(C)C)C(=O)NC)C | C18H27N3O3
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on charcoal | 160 mg | [Pd] | Pd
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 45 ml | C(C)O | C2H6O
catalyst | hydrogen chloride | a few drops | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 3-(methylamino)-3-[(methylamino)carbonyl]azetidine-1-carboxylate | 395 mg, 93% | CNC1(CN(C1)C(=O)OC(C)(C)C)C(=O)NC | C11H21N3O3
